US07626042B2
(3) 5-Chloro-N-{4-[(1,1-dimethyl)ethyl]-5-[(2,2-dimethyl)propionyl]thiazol-2-yl}-2-hydroxybenzamide
A mixture of 5-chlorosalicylic acid (143.6 mg, 0.83 mmol), 2-amino-4-[(1,1-dimethyl)ethyl]-5-[(2,2-dimethyl)propionyl]thiazole (200.0 mg, 0.83 mmol), phosphorus trichloride (40 μL, 0.46 mmol) and chlorobenzene (4 mL) was refluxed for 3 hours. After the reaction mixture was cooled to room temperature, the residue obtained by concentration of the solvent under reduced pressure was purified by column chromatography on silica gel(n-hexane:ethyl acetate=3:1) to give the title compound(159.1 mg, 48.4%) as a white powder.

reactant | 5-chlorosalicylic acid | 0.83 mmol, 143.6 mg | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 2-amino-4-[(1,1-dimethyl)ethyl]-5-[(2,2-dimethyl)propionyl]thiazole | 0.83 mmol, 200.0 mg | NC=1SC(=C(N1)C(C)(C)C)C(C(C)(C)C)=O | C12H20N2OS
reactant | phosphorus trichloride | 0.46 mmol, 40 μL | P(Cl)(Cl)Cl | Cl3P
solvent | chlorobenzene | 4 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 5-Chloro-N-{4-[(1,1-dimethyl)ethyl]-5-[(2,2-dimethyl)propionyl]thiazol-2-yl}-2-hydroxybenzamide | 159.1 mg, 48.4% | ClC=1C=CC(=C(C(=O)NC=2SC(=C(N2)C(C)(C)C)C(C(C)(C)C)=O)C1)O | C19H23ClN2O3S
